US04816467
1,4-Dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazole-3-carboxylic acid, ethyl ester (4.2 g) suspended in dioxane (60 ml) is heated with 1% KOH solution in ethanol (124 ml) at reflux temperature for 30 minutes. The reaction mixture is diluted with ice water and acidified to pH 3 with 37% HCl. The precipitate is filtered, washed with water and dried in vacuo at 50° C. to give 1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazole-3-carboxylic acid (3.5 g) which is reacted with thionyl chloride (1.34 ml) in dioxane (70 ml) at reflux temperature for 2 hours. After cooling the solution is evaporated to dryness in vacuo to give 1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazole-3-carbonyl chloride as crystalline residue. The crude product is dissolved in anhydrous dioxane (35 ml) and reacted for 2 hours under stirring at room temperature with ethyl cyanoacetate (1.5 g) carbanion, prepared by treatment with 50% sodium hydride (0.8 g) in anhydrous dimethylformamide (20 ml) at room temperature. The reaction mixture is then diluted with ice water and acidified to pH 1 with N HCl. The precipitate is filtered and dissolved in ethyl acetate, then the organic solution is washed with N HCl and water until neutral. Evaporation to dryness yields a residue which is purified over a SiO2 column using chloroform/methanol 80:20 as eluent. Crystallization from acetone gives 1.2 g of 2-cyano-3-(1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazol-3-yl)-3-oxo-propanoic acid, ethyl ester.

reactant | 1,4-Dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazole-3-carboxylic acid, ethyl ester | 4.2 g | C1(=CC=CC=C1)N1N=C(C2=C1C1=C(OC2)C=CC=C1)C(=O)OCC | C19H16N2O3
reactant | KOH | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | ethanol | 124 ml | C(C)O | C2H6O
product | 1,4-dihydro-1-phenyl-[1]-benzopyrano[4,3-c]pyrazole-3-carboxylic acid | 3.5 g | C1(=CC=CC=C1)N1N=C(C2=C1C1=C(OC2)C=CC=C1)C(=O)O | C17H12N2O3
